US07560176B2
A two necked round-bottom flask (250 mL) containing a stir bar fitted with a reflux condenser was evacuated and purged with nitrogen gas. Dry ether (50 mL) and 2-bromothiophene (0.0191 mol, 3.06 g) was added to the flask followed by the slow addition of n-BuLi (0.0229 mol, 9.17 mL) via a syringe pump. The reaction mixture was stirred at room temperature for 30 min to 40 min and then 4-methylquinoline (0.0191 mol, 2.72 g) was slowly added. The reaction mixture was refluxed for an additional 2 to 3 hr. The reaction mixture was then cooled to room temperature and diluted with an aqueous brine solution and extracted with ether (3×30 mL). The combined extracts were dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography using hexanes/CH2Cl2 as eluent to afford 2.77 g of 4-methyl-(2-thiophenyl)quinoline (65% yield).

reactant | ether | 50 mL | CCOCC | C4H10O
reactant | 2-bromothiophene | 0.0191 mol, 3.06 g | BrC=1SC=CC1 | C4H3BrS
reactant | n-BuLi | 0.0229 mol, 9.17 mL | [Li]CCCC
reactant | 4-methylquinoline | 0.0191 mol, 2.72 g | CC1=CC=NC2=CC=CC=C12 | C10H9N
solvent | brine | [Cl-].[Na+].O
product | 4-methyl-(2-thiophenyl)quinoline | 2.77 g, 65% yield | CC1=CC(=NC2=CC=CC=C12)C=1SC=CC1 | C14H11NS
